US07230020B2
Reaction of 2,5-dichlorobenzoic acid (145 mg, 0.76 mmol) in thionyl chloride (5 mL) then with 4-chloro-2-methyl-benzothiazol-5-ylamine (50 mg, 0.25 mmol) in presence of triethylamine (0.5 mL) in THF (2 mL) according to method B gave 2,5-dichloro-N-(4-chloro-2-methyl-benzothiazol-5-yl)-benzamide (50 mg, 0.13 mmol, 52% yield) as a white powder after purification by chromatography on silica gel(eluent: DCM).

reactant | 2,5-dichlorobenzoic acid | 0.76 mmol, 145 mg | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 4-chloro-2-methyl-benzothiazol-5-ylamine | 0.25 mmol, 50 mg | ClC1=C(C=CC2=C1N=C(S2)C)N | C8H7ClN2S
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2,5-dichloro-N-(4-chloro-2-methyl-benzothiazol-5-yl)-benzamide | 0.13 mmol, 50 mg, 52% yield | ClC1=C(C(=O)NC=2C=CC3=C(N=C(S3)C)C2Cl)C=C(C=C1)Cl | C15H9Cl3N2OS
